Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[H:8]>>[O:1]=[C:2]([H:3])[C:4]1[O:5][C:6]1([H:7])[H:8],0.75434457949
[H:4].[O:1]=[C:2]([H:3])[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][H:10],-0.595635212738
[C:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-2.26103664384
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8])[H:9]>>[C:1]([C:4][C:7]#[C:8])([H:6])[H:9].[C:2]#[C:3][H:5],1.19647429872
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13].[H:6],1.7713818886099997
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[C:3]([H:4])=[C:5]([H:6])[O:7][H:8].[O:1]=[C:2],1.65940875965
[C:7][C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.32309040363
[C:5]([H:6])#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-3.10719644233
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7],6.59655019408
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4][O:5][H:6].[O:7]=[C:8]([H:9])[H:10],0.854092993769
[H:1].[O:2]=[C:3]=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-2.51801801883
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.0156369875
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14],4.80307379432
[H:1]/[C:2]([O:3][O:4])=[C:5](/[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1[O:3][O:4][C@:5]1([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.700512723621
[H:1][O:2][C:3]([H:4])[C:5]#[C:7][O:8][C:9]([H:10])[H:11].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])[H:11],-3.4692932511400003
[H:1][C:2][O:4][C:5]=[C:6]([H:7])[H:8].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],-4.04168160808
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.62944477215
[O:1]=[C:2].[O:3][C:4]#[C:5][H:6]>>[O:1]=[C:2][O:3][C:4]#[C:5][H:6],0.865776233639
[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.75215955781
[C:5]([H:6])#[C:7][H:8].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7][H:8],-1.81960924056
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12].[H:8],4.82296984285
[O:1][C@:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:12]([H:13])([H:14])[H:15],1.14473104
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7],3.10277221229
[C:5]([H:6])[H:7].[O:1]=[C:2]=[C:3]([O:4])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.5393335102
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]#[C:10][C:11]([H:12])[H:13].[H:8],2.61355456742
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16],-3.91886419706
[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-7.607584794199999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9].[O:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],1.83712675643
[C:8][H:9].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[O:10][H:11],-7.10609704727
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],5.126659763369999
[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-0.94413581
